US07550474B2
b. 2-Azido-1-quinolin-8-yl-ethanone
To a solution of 2-chloro-1-quinolin-8-yl-ethanone (5.85 g, 28.5 mmol) in DMSO (60 mL), as prepared in the last step, was added NaN3 (2.2 g, 33.9 mmol). After 2 hours, the reaction was diluted with EtOAc (250 mL) and washed with H2O (3×100 mL). The organic phase was washed with brine (100 mL), dried over Na2SO4 and concentrated in vacuo. Purification via SiO2 chromatography (20% EtOAc/hexanes) affored the product as a pale yellow solid (4.95 g). 1H NMR (300 Hz, CDCl3) δ 9.0-8.97 (m, 1H), 8.26-8.22 (m, 2H), 8.04-8.02 (m, 1H), 7.68-7.63 (m, 1H), 7.52-7.48 (m, 1H), 5.12 (s, 2H).

reactant | 2-chloro-1-quinolin-8-yl-ethanone | 28.5 mmol, 5.85 g | ClCC(=O)C=1C=CC=C2C=CC=NC12 | C11H8ClNO
reactant | NaN3 | 33.9 mmol, 2.2 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 2-Azido-1-quinolin-8-yl-ethanone | N(=[N+]=[N-])CC(=O)C=1C=CC=C2C=CC=NC12 | C11H8N4O
